US04681884
Hydrochloric acid (100 ml of 4N) is added dropwise to a stirred mixture of 4-[2-(p-nitrophenyl)-ethenyl]-2-aminopyrimidine (21.8 g), ethanol (250 ml) and iron filing (22 g). During the addition the reaction temperature is increased to 65° C., and stirring is continued (2 hours) at 65° C. Water is added, followed by an aqueous 30% sodium hydroxide solution (200 ml) and chloroform (1 liter). The chloroform layer is then separated and dried over sodium sulfate. After evaporation and addition of ether, 4-[2-(p-aminophenyl)-ethenyl]-2-aminopyrimidine is obtained (13.5 g), which is used as the starting compound without further purification.

reactant | Hydrochloric acid | 4N, 100 ml | Cl | ClH
reactant | 4-[2-(p-nitrophenyl)-ethenyl]-2-aminopyrimidine | 21.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=NC(=NC=C1)N | C12H10N4O2
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
catalyst | iron | [Fe] | Fe
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 4-[2-(p-aminophenyl)-ethenyl]-2-aminopyrimidine | NC1=CC=C(C=C1)C=CC1=NC(=NC=C1)N | C12H12N4
